US07888347B2
6-Cyclobutyl-2-phenyl-2,4,5,6,7,8-hexahydropyrazolo[3,4-d]azepine (E45)
To a suspension of 2-phenyl-2,4,5,6,7,8-hexahydropyrazolo[3,4-d]azepine (may be prepared as described in Description 46) (39 mg, 0.18 mmol) in dichloromethane (4 ml) was added 3 drops of acetic acid, cyclobutanone (28 μl, 0.36 mmol) and sodium triacetoxyborohydride (77 mg, 0.36 mmol). The resulting mixture was allowed to stir at room temperature for 1 hour. The resulting reaction mixture was acidified with 2M hydrochloric acid and applied to an pre equilibrated ion exchange cartridge (SCX), washed with methanol and then a 2M ammonia in methanol solution. The basic fractions were then evaporated in vacuo to afford the title product (E45); MS (ES+) m/e 268 [M+H]+ as a 95:5 mixture of the title compound and 7-cyclobutyl-2-phenyl-2,4,5,6,7,8-hexahydropyrazolo[3,4-c]azepine.

reactant | 2-phenyl-2,4,5,6,7,8-hexahydropyrazolo[3,4-d]azepine | 0.18 mmol, 39 mg | C1(=CC=CC=C1)N1N=C2CCNCCC2=C1 | C13H15N3
reactant | cyclobutanone | 0.36 mmol, 28 μl | C1(CCC1)=O | C4H6O
reactant | sodium triacetoxyborohydride | 0.36 mmol, 77 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | hydrochloric acid | 2M | Cl | ClH
solvent | dichloromethane | 4 ml | ClCCl | CH2Cl2
catalyst | acetic acid | 3 drops | C(C)(=O)O | C2H4O2
product | 6-Cyclobutyl-2-phenyl-2,4,5,6,7,8-hexahydropyrazolo[3,4-d]azepine | C1(CCC1)N1CCC=2C(CC1)=CN(N2)C2=CC=CC=C2 | C17H21N3
